US03987053
EXAMPLE 49: 2-Amino-5-(1-methyl-2-nitro-5-imidazolyl)-1,3,4-thiadiazole
2 Grams of 1-methyl-2-nitro-5-imidazolecarboxaldehyde thiosemicarbazone are added to a solution of 17.1 g. of FeNH4 (SO4)2. 12H2O in 35 ml. of water. The mixture is stirred at 80°-90° C. for 2 hours, and, after cooling, the solid product is collected on the filter and washed with water. The crude compound is crystallized from a mixture of methanol and dimethylformamide. Yield 0.95 g. (48%), m.p. 263°-265° C.

reactant | 1-methyl-2-nitro-5-imidazolecarboxaldehyde thiosemicarbazone | CN1C(=NC=C1C=NNC(=S)N)[N+](=O)[O-] | C6H8N6O2S
solvent | water | O | H2O
product | 2-Amino-5-(1-methyl-2-nitro-5-imidazolyl)-1,3,4-thiadiazole | NC=1SC(=NN1)C1=CN=C(N1C)[N+](=O)[O-] | C6H6N6O2S
